US08022205B2
N,N-di-Boc-4-bromo-2,6-difluoro-phenylamine
4-Bromo-2,6-difluoro-phenylamine (10 g, 48 mmol) was dissolved in DMF (100 ml), and (Boc)2O (23.1 g, 106 mmol) and DMAP (176 mg, 1.44 mmol) were added, followed by stirring at room temperature for 14 hours. 200 ml of water was added, and the resulting solid was filtered, to obtain a crude product as a colorless solid (18.3 g, 93%).

reactant | 4-Bromo-2,6-difluoro-phenylamine | 48 mmol, 10 g | BrC1=CC(=C(C(=C1)F)N)F | C6H4BrF2N
reactant | (Boc)2O | 106 mmol, 23.1 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | water | 200 ml | O | H2O
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
catalyst | DMAP | 1.44 mmol, 176 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | N,N-di-Boc-4-bromo-2,6-difluoro-phenylamine | 18.3 g, 93% | C(=O)(OC(C)(C)C)N(C(=O)OC(C)(C)C)C1=C(C=C(C=C1F)Br)F | C16H20BrF2NO4
